US08629168B2
a) (7-Bromo-benzooxazol-2-yl)-{4-[4-(2-methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenyl}-amine
The title compound is prepared from 4-[4-(2-methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenylamine and 7-bromo-2-methylsulfanyl-benzooxazole using methodology described in the preparation of example 64.

reactant | 4-[4-(2-methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenylamine | COCCN1CCN(CC1)C1=C(C=C(C=C1)N)C | C14H23N3O
reactant | 7-bromo-2-methylsulfanyl-benzooxazole | BrC1=CC=CC=2N=C(OC21)SC | C8H6BrNOS
product | (7-Bromo-benzooxazol-2-yl)-{4-[4-(2-methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenyl}-amine | BrC1=CC=CC=2N=C(OC21)NC2=CC(=C(C=C2)N2CCN(CC2)CCOC)C | C21H25BrN4O2
